US08614208B2
Production of ethyl 2-methyl-4-(methylsulfanyl)-6-oxo-1,6-dihydropyrimidine-5-carboxylate
A solution of ethyl 3,3-bis(methylthio)-2-cyanoacrylate (10.0 g, 45.6 mmol), acetamide (3.0 g, 50.2 mmol), sodium hydride (70% oil, 2.0 g, 58.3 mmol) in ethyl acetate (250 mL)-toluene (250 mL) was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed successively with water and brine, and dried over anhydrous sodium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. To the residue were added ethanol (200 mL), and the mixture was stirred with heating under reflux for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was washed with diethyl ether to give the title compound (4.1 g, 39%) as a pale-yellow powder.

reactant | ethyl 3,3-bis(methylthio)-2-cyanoacrylate | 45.6 mmol, 10.0 g | CSC(=C(C(=O)OCC)C#N)SC | C8H11NO2S2
reactant | acetamide | 50.2 mmol, 3.0 g | C(C)(=O)N | C2H5NO
reactant | sodium hydride | 58.3 mmol, 2.0 g | [H-].[Na+]
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2-methyl-4-(methylsulfanyl)-6-oxo-1,6-dihydropyrimidine-5-carboxylate | 4.1 g, 39% | CC=1NC(C(=C(N1)SC)C(=O)OCC)=O | C9H12N2O3S
